US04883684
1. Synthesis of diacylglyceride (behenoyl-1-stearoyl-glycerol)
100 g (279.3 mmol) of 1-monostearin is dissolved in 750 ml of warm chloroform (Note: the chloroform is washed three times with distilled water, dried over MgSO4, and filtered before use). 24.8 ml (307.2 mmol) of pyridine is then added to the solution. (Note: the pyridine is dried over 3A molecular sieves, manufactured by Linde, before use). 110 g (307.2 mmol) of behenoyl chloride is dissolved in 250 ml of washed chloroform and added dropwise to the well stirred solution. The reaction is gently warmed with a heating mantel and is stirred overnight (16 hrs.) Upon completion of the reaction, the solvent is removed under reduced pressure. The remaining solid/oil is transferred to a 2 liter beaker and 1 liter of acetone/ethanol 50:50 is added. The mixture is heated to boiling and the remaining solids filtered. The filtrate is then placed in a 50° C. incubator overnight and filtered. The filtrate is cooled to room temperature and any solid diacylglyceride is removed by suction filtration.

reactant | 1-monostearin | 279.3 mmol, 100 g | CCCCCCCCCCCCCCCCCC(=O)OCC(CO)O | C21H42O4
reactant | pyridine | 307.2 mmol, 24.8 ml | N1=CC=CC=C1 | C5H5N
reactant | behenoyl chloride | 307.2 mmol, 110 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)Cl | C22H43ClO
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | behenoyl-1-stearoyl-glycerol | C(CCCCCCCCCCCCCCCCCCCCC)(=O)C(OC(CCCCCCCCCCCCCCCCC)=O)C(O)CO | C43H84O5
